US05834463
(3aR*,10aS*)-9-(4-Chlorobenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepine-10(1H)-one
(3aR*,10aS*)-9-(4-Chlorobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one hydrochloride (426 mg, 1.2 mmol) and phthalimidoacetyl chloride (389 mg, 1.7 mmol) were suspended in toluene (4 mL). The suspension was refluxed for 16 hours. To the reaction mixture was added a saturated aqueous solution of sodium hydrogencarbonate, which was subjected to extraction with chloroform. The extract solution was washed with water and a saturated aqueous solution of sodium hydrogencarbonate, which was dried and subjected to filtration. The filtrate was concentrated under reduced pressure. The concentrate was crystallized from ethanol-hexane to give 91 mg (yield 15%) of the titled compound, m.p. 205°-206° C.

reactant | (3aR*,10aS*)-9-(4-Chlorobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one hydrochloride | 1.2 mmol, 426 mg | Cl.ClC1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1
reactant | phthalimidoacetyl chloride | 1.7 mmol, 389 mg | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | (3aR*,10aS*)-9-(4-Chlorobenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepine-10(1H)-one | 91 mg, yield 15% | ClC1=CC=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C=C1 | C29H24ClN3O4
